US05041455
B. 3-(4-(4-methylpiperidino)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.5 ml, 8 mmol) and 3-(4-(4-methylpiperidino)-1,2,5-thiadiazol-3-yl)pyridine (0.8 g, 3.1 mmol) in acetone (5 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 1.14 g (92%).

reactant | methyl iodide | 8 mmol, 0.5 ml | CI | CH3I
reactant | 3-(4-(4-methylpiperidino)-1,2,5-thiadiazol-3-yl)pyridine | 3.1 mmol, 0.8 g | CC1CCN(CC1)C=1C(=NSN1)C=1C=NC=CC1 | C13H16N4S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-(4-methylpiperidino)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].CC1CCN(CC1)C=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C14H19N4S.HI/c1-11-5-8-18(9-6-11)14-13(15-19-16-14)12-4-3-7-17(2)10-12;/h3-4,7,10-11H,5-6,8-9H2,1-2H3;1H/q+1;/p-1
